US05098924
[R-(R*,S*)]-β-[[(1,1-Dimethylethoxy)carbonyl]-amino]-α-(2-furanyl)cyclohexanepropanol (41.63 g., 128.9 mmole, 1 eq.) was dissolved in distilled dichloromethane (1 1., 0.129M) under an argon atmosphere. 2,2-Dimethoxypropane (158.5 ml., 1289 mmole, 10 eq. was added. The solution was cooled in an ice bath and pyridinium toluene-4-sulfonate (3.24 g., 12.89 mmole, 0.1 eq.) was added. The cooling bath was removed and the mixture was stirred at room temperature for 24 hours. Additional 2,2-dimethoxypropane (50 ml., 407 mmole, 3.2 eq.) and pyridinium toluene-4-sulfonate (1.5 g., 6.0 mmole, 0.05 eq.) were added and stirring at room temperature was continued for 20 hours. Solid sodium bicarbonate was added and the solvent was removed in vacuo. The residue was dissolved in ether (1 l.) and washed with saturated sodium bicarbonate solution (300 ml.) and saturated sodium chloride solution (300 ml.), dried (MgSO4) and freed of solvent in vacuo leaving a yellow oil (47.04 g.). This was chromatographed on silica gel (Merck, 1300 g.) eluting with ether:hexane (1:9) to give (4S-trans)-4-(cyclohexylmethyl)-5-(2-furanyl)-2,2-dimethyl-3-oxazolidinecarboxylic acid, 1,1-dimethylethyl ester as a colorless oil which crystallized on standing (36.66 g., 78.3%), m.p. 52°-56°. [α]D =-46.9° (c=1.6, methanol). TLC (silica gel, 1:3, ether:hexane) Rf =0.58.

reactant | β-[[(1,1-Dimethylethoxy)carbonyl]-amino]-α-(2-furanyl)cyclohexanepropanol | 128.9 mmole, 41.63 g, 1 eq. | CC(C)(OC(=O)NC(C(O)C=1OC=CC1)CC1CCCCC1)C | C18H29NO4
reactant | 2,2-Dimethoxypropane | COC(C)(C)OC | C5H12O2
reactant | pyridinium toluene-4-sulfonate | 12.89 mmole, 3.24 g, 0.1 eq. | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 2,2-dimethoxypropane | 407 mmole, 50 ml, 3.2 eq. | COC(C)(C)OC | C5H12O2
reactant | pyridinium toluene-4-sulfonate | 6.0 mmole, 1.5 g, 0.05 eq. | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 0.129M | ClCCl | CH2Cl2
product | (4S-trans)-4-(cyclohexylmethyl)-5-(2-furanyl)-2,2-dimethyl-3-oxazolidinecarboxylic acid, 1,1-dimethylethyl ester | C1(CCCCC1)C[C@@H]1N(C(O[C@H]1C=1OC=CC1)(C)C)C(=O)OC(C)(C)C | C21H33NO4
